data/oMe_Silver.jsonl
{"reaction_id": "NR-317_1-C(C)(C)C_2-CCn1c2ccccc2c2cc(ccc12)","level": "medium","name": "Weinreb Ketone Synthesis","reactants_smiles": ["C(C)(C)C[Mg]Br","CON(C)C(=O)(CCn1c2ccccc2c2cc(ccc12))","O"],"products_smiles": ["C(=O)(C(C)(C)C)(CCn1c2ccccc2c2cc(ccc12))"],"conditions": "1. Grignard Reagent; 2. Aqueous workup","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)CC(CCn1c2ccccc2c2cc(ccc12))(O[Mg-]1(Br))N(C)[O+]1C","step_weight": 0,"rationale": "The strongly nucleophilic Grignard carbon attacks the electrophilic carbonyl carbon, aided by the electron-withdrawing carbonyl and chelation of the methoxy amide to Mg, stabilizing the tetrahedral intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(O)(CCn1c2ccccc2c2cc(ccc12))N(C)OC","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide oxygen, driven by the high basicity of the alkoxide and the availability of protons in acidic or neutral aqueous conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(O)(CCn1c2ccccc2c2cc(ccc12))[NH+](C)OC","step_weight": 0,"rationale": "Protonation of the amide nitrogen increases its leaving group ability by generating a positively charged, resonance-stabilized ammonium species."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(C(C)(C)C)(CCn1c2ccccc2c2cc(ccc12))","step_weight": 0,"rationale": "Elimination occurs as the protonated amine departs, driven by formation of the strong C=O π bond and the stability of the neutral amine leaving group."}],"description": "The Grignard reagent attacks the electrophilic carbonyl carbon of the Weinreb amide, forming a tetrahedral intermediate stabilized by chelation to magnesium. Proton transfers under aqueous workup prepare the intermediate for elimination of the amine, yielding the ketone selectively without over-addition."}
{"reaction_id": "NR-108_1-C(F)(F)F_2-C=C_3-C(C)(C)C","name": "Hofmann-Löffler-Freytag Reaction","level": "medium","reactants_smiles": ["ClN(C(C)(C)C)CCCC(C(F)(F)F)C=C"],"products_smiles": ["N(C(C)(C)C)CCCC(C(F)(F)F)(C=C)(Cl)"],"conditions": "Heat or hv","mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[N](C(C)(C)C)CCCC(C(F)(F)F)C=C","rationale": "Heat or light promotes homolytic N–Cl bond cleavage, favored by the weak bond and the stability of the nitrogen-centered radical through lone pair and adjacent substituent effects."},{"step": 2,"type": "rearrangement","subtype": "radical_rearrangement","intermediate_smiles": "N(C(C)(C)C)CCC[C](C(F)(F)F)C=C","rationale": "The nitrogen radical abstracts a γ-hydrogen via a 1,5-hydrogen shift, favored by a six-membered transition state and minimal steric hindrance, generating a stabilized carbon radical."},{"step": 3,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "N(C(C)(C)C)CCCC(C(F)(F)F)(C=C)(Cl)","rationale": "The carbon radical couples with a chlorine atom due to the strong C–Cl bond formation and the high reactivity of the radical, completing the intramolecular halogenation."}],"description": "Under photochemical or thermal conditions, the Hofmann–Löffler–Freytag reaction proceeds via nitrogen-centered radical formation, intramolecular hydrogen abstraction to form a carbon radical, and radical halogenation to yield the chlorinated amine product with high regioselectivity due to favorable 1,5-hydrogen transfer."}
